US07211672B2
(S)-3-Phenylamino-butyramide (20)
To a solution of (S)-3-phenylamino-butyronitrile (6.06 g, 0.0378 mol) in toluene (150 mL) was added a cooled solution of conc. sulfuric acid in H2O (20.12 mL H2SO4/3 mL)—(The ratio of toluene to acid/H2O is very important and should be followed strictly). Stir the biphasic mixture at room temperature for 0.5 h and warm to 35° C. and stir for 22 h. The reaction was cooled to room temperature and quenched with 13 g of Na2CO3 in water (add slowly some foaming). Separate the organic and extract 2×EtOAc. Combine all the organics and wash the organics with brine, dry over MgSO4, filter and concentrate to give the desired product in 2.11 g (90%)

reactant | (S)-3-phenylamino-butyronitrile | 0.0378 mol, 6.06 g | C1(=CC=CC=C1)N[C@H](CC#N)C | C10H12N2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 20.12 mL | O | H2O
product | (S)-3-Phenylamino-butyramide | C1(=CC=CC=C1)N[C@H](CC(=O)N)C | C10H14N2O
